US08703797B2
tert-Butyl 3-hydroxy-3-(2-pivalamidopyridin-3-yl)butanoate:
To a solution of 9.5 mL (2.1 eq) of LDA in 15 mL THF at −78° C. was added 2.0 mL of t-butyl acetate (2.1 eq.). The resulting mixture was stirred at −78° C. for 30 minutes after which a solution of N-(3-acetylpyridin-2-yl)pivalamide (1.52 g, 6.90 mmol) in THF was added in a dropwise fashion. The resulting reaction mixture was then stirred at −78° C. for 30 minutes and was brought up to room temperature. The reaction mixture was then quenched with saturated NH4Cl. The resulting mixture was extracted with EtOAc (3×20 mL) and the combined organic extracts were washed with H2O (2×20 mL), brine (lx 20 mL), dried over MgSO4 and concentrated to give the title compound (1.40 g, 61%). Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 1.33 (s, 9 H) 1.44 (s, 9 H) 1.58 (s, 3 H) 2.65 (d, J=16.70 Hz, 1 H) 3.06 (d, J=16.70 Hz, 1 H) 5.54 (s, 1 H) 6.96 (dd, J=7.76, 4.83 Hz, 1 H) 7.43 (dd, J=7.91, 1.76 Hz, 1 H) 8.45 (dd, J=4.98, 1.76 Hz, 1 H) 10.29 (s, 1 H).

reactant | LDA | 9.5 mL, 2.1 eq | [Li+].CC(C)[N-]C(C)C
reactant | t-butyl acetate | 2.0 mL, 2.1 eq. | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | N-(3-acetylpyridin-2-yl)pivalamide | 6.90 mmol, 1.52 g | C(C)(=O)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C12H16N2O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-hydroxy-3-(2-pivalamidopyridin-3-yl)butanoate | 1.40 g, 61% | OC(CC(=O)OC(C)(C)C)(C)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C18H28N2O4
